US07459554B2
4-(8-Amino-3-cyclobutylimidazo[1,5-a]pyrazin-1-yl)-2-benzyloxyphenol:
Phosphoramidic acid 2-benzyloxy-4-(8-chloro-3-cyclobutylimidazo[1,5-a]pyrazin-1-yl)-phenyl ester isopropyl ester: Followed General Cyclization described in Example 92-(a) whereby Cyclobutanecarboxylic acid [[3-benzyloxy-4-(4-methoxybenzyloxy)-phenyl]-(3-chloropyrazin-2-yl)-methyl]-amide was treated with POCl3 and then quenched with 2N NH3 in iPrOH to afford the title compound; 1H NMR (CDCl3, 400 MHz) δ 1.31 (d, 3H, J=6.0 Hz), 1.35 (d, 3H, J=6.4 Hz), 2.01-2.26 (m, 2H), 2.47-2.69 (m, 4H), 3.02 (d, 2H, J=4.0 Hz), 3.84 (quintet, 1H, J=8.4 Hz), 4.78 (septet, 1H, J=6.1 Hz), 5.17 (s, 2H), 7.27-7.53 (m, 10H); MS (ES): 526.9/528.9 (M/M+2).

reactant | Phosphoramidic acid 2-benzyloxy-4-(8-chloro-3-cyclobutylimidazo[1,5-a]pyrazin-1-yl)-phenyl ester isopropyl ester | C(C)(C)OP(OC1=C(C=C(C=C1)C=1N=C(N2C1C(=NC=C2)Cl)C2CCC2)OCC2=CC=CC=C2)(=O)N | C26H28ClN4O4P
reactant | Cyclobutanecarboxylic acid [[3-benzyloxy-4-(4-methoxybenzyloxy)-phenyl]-(3-chloropyrazin-2-yl)-methyl]-amide | C(C1=CC=CC=C1)OC=1C=C(C=CC1OCC1=CC=C(C=C1)OC)C(C1=NC=CN=C1Cl)NC(=O)C1CCC1 | C31H30ClN3O4
reactant | POCl3 | O=P(Cl)(Cl)Cl | Cl3OP
product | 4-(8-Amino-3-cyclobutylimidazo[1,5-a]pyrazin-1-yl)-2-benzyloxyphenol | NC=1C=2N(C=CN1)C(=NC2C2=CC(=C(C=C2)O)OCC2=CC=CC=C2)C2CCC2 | C23H22N4O2
